US07906660B2
4′,7-Diacetoxy-3′-methoxy-8-methylisoflavone was prepared from 4′,7-dihydroxy-3′-methoxy-8-methylisoflavone (0.42 g, 1.4 mmol), acetic anhydride (2.6 ml) and pyridine (0.5 ml) as described for 4′,7-diacetoxy-8-methylisoflavone. Yield: (0.4 g, 74%) m.p. 209° C. 1H NMR (CDCl3): δ 2.22 (s, 3H, CH3), 2.32, 2.39 (each s, 3H, OCOCH3), 3.89 (s, 3H, OMe), 7.07-7.11 (m, 2H, ArH), 7.13 (d, 1H, J 8.6 Hz, H6), 7.32 (d, 1H, J 1.5 Hz, ArH), 8.09 (s, 1H, H2), 8.18 (d, 1H, J 8.7 Hz, H5).

reactant | 4′,7-dihydroxy-3′-methoxy-8-methylisoflavone | 1.4 mmol, 0.42 g | OC1=C(C=C(C2=COC3=C(C(=CC=C3C2=O)O)C)C=C1)OC | C17H14O5
reactant | acetic anhydride | 2.6 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | 4′,7-diacetoxy-8-methylisoflavone | C(C)(=O)OC1=CC=C(C2=COC3=C(C(=CC=C3C2=O)OC(C)=O)C)C=C1 | C20H16O6
solvent | pyridine | 0.5 ml | N1=CC=CC=C1 | C5H5N
product | 4′,7-Diacetoxy-3′-methoxy-8-methylisoflavone | C(C)(=O)OC1=C(C=C(C2=COC3=C(C(=CC=C3C2=O)OC(C)=O)C)C=C1)OC | C21H18O7
